US05183820
4-[(2-Fluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone
A mixture of 2-fluoroaniline (0.98 g) and 2,4-dioxopiperidine (1.0 g) was heated at 120° for 2 h. The cooled mixture was triturated with dry ether (5×40 ml) and the solvent was decanted to leave the title compound (1.495 g), m.p. 98°-100°.

reactant | 2-fluoroaniline | 0.98 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 2,4-dioxopiperidine | 1.0 g | O=C1NCCC(C1)=O | C5H7NO2
product | 4-[(2-Fluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone | 1.495 g | FC1=C(C=CC=C1)NC1=CC(NCC1)=O | C11H11FN2O
